US07659264B2
Step A. tert-Butyl (6-chloropyridin-2-yl)carbamate
To a solution of 2-amino-6-chloropyridine (5.24 g, 40.8 mmol) and sodium hexamethyldisilazide (1.0 M, 89.8 mL, 89.8 mmol) in THF (35 mL) was added a solution of di-tert-butyl dicarbonate (9.80 g, 44.9 mmol) in THF (35 mL). After 24 h the reaction was concentrated and the residue was partitioned between EtOAc (30 mL) and 1N HCl (100 mL). The aqueous layer was extracted further with EtOAc (2×). The combined organic layers were washed with NaHCO3, dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of 20 to 100% dichloromethane:hexane to give the title compound (7.73 g). MS: m/z=173.0 (M−tBu).

reactant | 2-amino-6-chloropyridine | 40.8 mmol, 5.24 g | NC1=NC(=CC=C1)Cl | C5H5ClN2
reactant | sodium hexamethyldisilazide | 89.8 mmol, 1.0 M, 89.8 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 44.9 mmol, 9.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | tert-Butyl (6-chloropyridin-2-yl)carbamate | 7.73 g | ClC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C10H13ClN2O2
